US07108964B2
Preparation of 1-({2-[3-(2-Dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yloxycarbonyl]-phenyl}-methyl-carbamoyl)-benzotriazole-5-carboxylic acid, phenyl ester (mixture of 1H and 3H triazole isomers)(AAC-4)
1H-Benzotriazole-5-carboxylic acid phenyl ester, compound with formyl chloride(15.4 g, 0.051 mol) was dissolved in THF (200 ml) and added dropwise during 20 min to a solution of 2-methylamino-benzoic acid 3-(2-dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yl ester (31.1 g, 0.051 mol) and N,N-dimethylaniline (11.8 g, 0.097 mol) in THF (120 ml). The solution was stirred overnight. Liquid chromatography coupled to mass spectrometry indicated that the major product was the desired coupler, present as a mixture of two isomers. The solvent was removed by evaporation under reduced pressure and the crude oil re-dissolved in ethyl acetate (900 ml). The solution was washed with aqueous 2 M hydrochloric acid (500 ml) and then water (500 ml) in a separating funnel, separated, dried over anhydrous magnesium sulfate, filtered and re-evaporated to give a brownish gum. The residue was re-dissolved by warming in acetonitrile (500 ml), using a steam bath. This solution was then stirred for 60 hr at room temperature. A beige solid formed which was filtered and dried under vacuo. Analysis was consistent with the desired product as a mixture of 1H and 3H triazole isomers. The total yield of product was 39.6 g (88%).

reactant | 1H-Benzotriazole-5-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)C1=CC2=C(NN=N2)C=C1 | C13H9N3O2
reactant | formyl chloride | 0.051 mol, 15.4 g | C(=O)Cl | CHClO
reactant | 2-methylamino-benzoic acid 3-(2-dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yl ester | 0.051 mol, 31.1 g | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)C)NC(=O)C=1C=C(C2=CC=CC=C2C1O)OC(C1=C(C=CC=C1)NC)=O | C38H46N2O5
reactant | N,N-dimethylaniline | 0.097 mol, 11.8 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1-({2-[3-(2-Dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yloxycarbonyl]-phenyl}-methyl-carbamoyl)-benzotriazole-5-carboxylic acid, phenyl ester | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)C)NC(=O)C=1C=C(C2=CC=CC=C2C1O)OC(=O)C1=C(C=CC=C1)N(C(=O)N1N=NC2=C1C=CC(=C2)C(=O)OC2=CC=CC=C2)C | C52H53N5O8
